US04285948
A solution of 4.20 g (0.0424 mol) of 2-aminotetrahydropyrimidine in 30 ml of dry DMF was warmed to 70° C. and with stirring was added 7.16 g (0.0381 mol) of 2,6-dichlorophenyl isocyanate in 25 ml of dry DMF over a period of 0.5 hours. After stirring for 2 hours at 70° C., the reaction mixture was cooled, diluted with H2O and filtered. The filter cake was washed well with H2O and air dried. The crude product, 5.1 g (47%) was dissolved in CH2Cl2, dried over K2CO3, filtered through a prewashed pad of filter aid and hexane was added to the cloud point. The resulting crystals were filtered, washed with hexane and dried in vacuo for 3 hours (50° C.; 5 mm Hg) to give pure N-(2,6-dichlorophenyl)-N'-(1,4,5,6-tetrahydropyrimidin-2-yl)urea, 4.71 g (43%); m.p. 179°-180.5° C. TLC: 5×20 cm silica gel; toluene-ether-MeOH (8:4:1) or CHCl3 -MeOH-NH4OH (90:10:1) indicated homogeneity; IR (KBr) 3421,1628 cm-1 ; UV max. (MeOH) 222 nm (ε=28300) and 239 nm (inflection) (ε=18,000).

reactant | 2-aminotetrahydropyrimidine | 0.0424 mol, 4.20 g | NC1NC=CCN1 | C4H9N3
reactant | 2,6-dichlorophenyl isocyanate | 0.0381 mol, 7.16 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-(2,6-dichlorophenyl)-N'-(1,4,5,6-tetrahydropyrimidin-2-yl)urea | ClC1=C(C(=CC=C1)Cl)NC(=O)NC=1NCCCN1 | C11H12Cl2N4O
